US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[4-methoxy-3-(trifluoromethyl)phenyl]-amino}carbonyl)amino]-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF and 0.2 ml of DMF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 46.4 mg (0.21 mmol) of 4-methoxy-3-trifluoromethylphenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of methanol and 1 N hydrochloric acid (2:1), again concentrated and dried under high vacuum. 15 mg (25.3% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-3-trifluoromethylphenyl isocyanate | 0.21 mmol, 46.4 mg | COC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C9H6F3NO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[({[4-methoxy-3-(trifluoromethyl)phenyl]-amino}carbonyl)amino]-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC(=C(C=C1)OC)C(F)(F)F | InChI=1S/C25H25F3N4O3S.ClH/c1-35-20-5-4-16(11-18(20)25(26,27)28)29-24(34)30-17-3-2-15-10-22(36-21(15)12-17)23(33)31-19-13-32-8-6-14(19)7-9-32;/h2-5,10-12,14,19H,6-9,13H2,1H3,(H,31,33)(H2,29,30,34);1H/t19-;/m0./s1
